US07122543B2
N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-4-trifluoromethylaniline
To a solution of 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid (200 mg, 0.4716 mmol) in methylene chloride (10 ml) were added 4-trifluoromethylaniline (114 mg, 0.7080 mmol), triethylamine (95 mg, 0.9405 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (239 mg, 1.4142 mmol) followed by stirring at room temperature for 16 hours. The reaction solution was washed with water and dried and the solvent was evaporated therefrom. The residue was purified by preparative thin layer chromatography (methylene chloride:methanol=95:5) to give the title compound (166 mg, 0.2932 mmol, 62%).

reactant | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoic acid | 0.4716 mmol, 200 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C24H25NO6
reactant | 4-trifluoromethylaniline | 0.7080 mmol, 114 mg | FC(C1=CC=C(N)C=C1)(F)F | C7H6F3N
reactant | triethylamine | 0.9405 mmol, 95 mg | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 1.4142 mmol, 239 mg | [Cl-].ClC1[NH+](CCN1C)C
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-[5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-(4-pyridyl)benzoyl]-4-trifluoromethylaniline | 0.2932 mmol, 166 mg, 62% | COC=1C(=C(CC=2C=CC(=C(C(=O)NC3=CC=C(C=C3)C(F)(F)F)C2)C2=CC=NC=C2)C(=C(C1OC)OC)OC)C | C31H29F3N2O5
